US06281363B1
A solution of 0.514 g of 2(R)-[1(S)-tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide in 10 ml of dry pyridine was cooled to 0° C. with stirring and 0.13 ml of methanesulphonyl chloride added. The mixture was allowed to return to room temperature and was stirred for 2 days. The solvent was evaporated and the residue partitioned between ethyl acetate and dilute hydrochloric acid. The ethyl acetate layer was washed successively with water and saturated sodium chloride solution, dried over anhydrous magnesium sulphate and the solvent evaporated. The residue was purified by flash chromatography using 5% methanol in dichloromethane for the elution. There was obtained 0.322 g of 2(R)-[1(S)-tert-butoxycarbonyl)-4-phenylbutyl]-N-[8-(methanesulphonyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]-4-methylvaleramide in the form of a white solid.

reactant | 4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide | CC(CCC(=O)NN1C(NC2(C1=O)CCNCC2)=O)C | C13H22N4O3
reactant | methanesulphonyl chloride | 0.13 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[8-(methanesulphonyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]-4-methylvaleramide | CS(=O)(=O)N1CCC2(C(N(C(N2)=O)NC(CCC(C)C)=O)=O)CC1 | C14H24N4O5S
